### PR TITLE
[Merged by Bors] - feat(RingTheory.DedekindDomain.Factorization): add factorization of fractional ideals

### PR DESCRIPTION
**Pull request by mariainesdff**
We show that every nonzero fractional ideal `I` of a Dedekind domain `R` can be factored as a finprod `∏_v v^{n_v}` over the maximal ideals of `R`, where the exponents `n_v` are integers. We define `FractionalIdeal.count K v I`  to be `n_v`, and we prove some of its properties.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 1]
```diff
@@ -177,3 +223,289 @@ theorem finprod_heightOneSpectrum_factorization_coe (I : Ideal R) (hI : I ≠ 0)
...
+
+/-! ### Factorization of fractional ideals of Dedekind domains -/
+
+namespace FractionalIdeal
+
+open Int IsLocalization
+
+/-- If `I` is a nonzero fractional ideal, `a ∈ R`, and `J` is an ideal of `R` such that
+`I = a⁻¹J`, then `I` is equal to the product `∏_v v^(val_v(J) - val_v(a))`. -/
+theorem finprod_heightOneSpectrum_factorization {I : FractionalIdeal (nonZeroDivisors R) K}
```
Comment (erdOne) [inline Mathlib/RingTheory/DedekindDomain/Factorization.lean:235]: Should there be a version of this lemma in terms of `count`?

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 2]
```diff
@@ -177,3 +223,289 @@ theorem finprod_heightOneSpectrum_factorization_coe (I : Ideal R) (hI : I ≠ 0)
...
+  simp_rw [← zpow_neg]
+  rw [← finprod_mul_distrib (Ideal.finite_mulSupport_coe hJ_ne_zero)
+    (Ideal.finite_mulSupport_inv ha_ne_zero)]
+  apply finprod_congr
+  intro v
+  rw [← zpow_add₀ ((@coeIdeal_ne_zero R _ K _ _ _ _).mpr v.ne_bot), sub_eq_add_neg]
+
+/-- For a nonzero `k = r/s ∈ K`, the fractional ideal `(k)` is equal to the product
+`∏_v v^(val_v(r) - val_v(s))`. -/
+theorem finprod_heightOneSpectrum_factorization_principal
```
Comment (erdOne) [inline Mathlib/RingTheory/DedekindDomain/Factorization.lean:256]: I think this should take `r` and `s` as arguments, and show that `... = spanSingleton R⁰ (r/s)`

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 3]
```diff
@@ -28,11 +51,32 @@ open scoped BigOperators Classical nonZeroDivisors
...
 open Set Function UniqueFactorizationMonoid IsDedekindDomain IsDedekindDomain.HeightOneSpectrum
 
-/-! ### Factorization of ideals of Dedekind domains -/
+variable {R : Type*} [CommRing R] {K : Type*} [Field K] [Algebra R K] [IsFractionRing R K]
+
+namespace FractionalIdeal
+
+/-- If `I` is a nonzero fractional ideal, `a ∈ R`, and `J` is an ideal of `R` such that
+`I = a⁻¹J`, then `J` is nonzero. -/
+theorem ideal_factor_ne_zero {I : FractionalIdeal (nonZeroDivisors R) K} (hI : I ≠ 0) {a : R}
```
Comment (erdOne) [inline Mathlib/RingTheory/DedekindDomain/Factorization.lean:60]: There is a notation `R⁰` for `nonZeroDivisors R` if you `open nonZeroDivisors`. The code would be easier to read if you use it.

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 4]
```diff
@@ -177,3 +223,289 @@ theorem finprod_heightOneSpectrum_factorization_coe (I : Ideal R) (hI : I ≠ 0)
...
+  have hv : (v.asIdeal : FractionalIdeal (nonZeroDivisors R) K) ≠ 0 := coeIdeal_ne_zero.mpr v.ne_bot
+  have h_self : (v.asIdeal : FractionalIdeal (nonZeroDivisors R) K) =
+      spanSingleton (nonZeroDivisors R) ((algebraMap R K) 1)⁻¹ * ↑v.asIdeal := by
+    rw [(algebraMap R K).map_one, inv_one, spanSingleton_one, one_mul]
+  have hv_irred : Irreducible (Associates.mk v.asIdeal) := by apply v.associates_irreducible
+  rw [count_well_defined K v hv h_self, Associates.count_self hv_irred, Ideal.span_singleton_one,
+    ← Ideal.one_eq_top, Associates.mk_one, Associates.factors_one, Associates.count_zero hv_irred,
+    ofNat_zero, sub_zero, ofNat_one]
+
+/-- `val_v(v) = n` for every `n ∈ ℕ`. -/
```
Comment (erdOne) [inline Mathlib/RingTheory/DedekindDomain/Factorization.lean:400]:
```suggestion
/-- `val_v(v ^ n) = n` for every `n ∈ ℕ`. -/
```

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 5]
```diff
@@ -177,3 +223,289 @@ theorem finprod_heightOneSpectrum_factorization_coe (I : Ideal R) (hI : I ≠ 0)
...
+theorem count_pow_self (n : ℕ) :
+    count K v ((v.asIdeal : FractionalIdeal (nonZeroDivisors R) K) ^ n) = n := by
+  rw [count_pow, count_self, mul_one]
+
+/-- `val_v(I⁻ⁿ) = -val_v(Iⁿ)` for every `n ∈ ℤ`. -/
+theorem count_inv (n : ℤ) (I : FractionalIdeal (nonZeroDivisors R) K) :
```
Comment (erdOne) [inline Mathlib/RingTheory/DedekindDomain/Factorization.lean:406]: I think `count_inv` should instead refer to `count K v (I⁻¹) = - count K v`. This maybe should be called `count_zpow_neg` or similar.

Sidenote: Do we need `count K v (I⁻¹) = - count K v`?

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 6]
```diff
@@ -177,3 +223,289 @@ theorem finprod_heightOneSpectrum_factorization_coe (I : Ideal R) (hI : I ≠ 0)
...
+/-- `val_v(Iⁿ) = n*val_v(I)` for every `n ∈ ℤ`. -/
+theorem count_zpow (n : ℤ) (I : FractionalIdeal (nonZeroDivisors R) K) :
+    count K v (I ^ n) = n * count K v I := by
+  cases' n with n
+  · rw [ofNat_eq_coe, zpow_ofNat]
+    exact count_pow K v n I
+  · rw [negSucc_coe, count_inv, zpow_ofNat, count_pow]
+    ring
+
+/-- `val_v(v) = n` for every `n ∈ ℤ`. -/
```
Comment (erdOne) [inline Mathlib/RingTheory/DedekindDomain/Factorization.lean:425]:
```suggestion
/-- `val_v(v ^ n) = n` for every `n ∈ ℤ`. -/
```

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 7]
```diff
@@ -177,3 +223,289 @@ theorem finprod_heightOneSpectrum_factorization_coe (I : Ideal R) (hI : I ≠ 0)
...
+theorem count_zpow_self (n : ℤ) :
+    count K v ((v.asIdeal : FractionalIdeal (nonZeroDivisors R) K) ^ n) = n := by
+  rw [count_zpow, count_self, mul_one]
+
+/-- If `v ≠ w` are two maximal ideals of `R`, then `val_v(w) = 0`. -/
+theorem count_maximal_coprime (w : HeightOneSpectrum R) (hw : w ≠ v) :
```
Comment (erdOne) [inline Mathlib/RingTheory/DedekindDomain/Factorization.lean:431]: Should there be a lemma saying `count K v (w.asIdeal : _) = if w = v then 1 else 0`?

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 8]
```diff
@@ -177,3 +223,289 @@ theorem finprod_heightOneSpectrum_factorization_coe (I : Ideal R) (hI : I ≠ 0)
...
+    ← Associates.count_mul _ _ hv, ← Associates.count_mul _ _ hv, Associates.mk_mul_mk,
+    Associates.mk_mul_mk, coeIdeal_injective h_aJ]
+  · rw [Ne.def, Associates.mk_eq_zero]; exact h_J_ne_zero
+  · rw [Ne.def, Associates.mk_eq_zero, Ideal.zero_eq_bot, Ideal.span_singleton_eq_bot]
+    exact h_a₁_ne_zero
+  · rw [Ne.def, Associates.mk_eq_zero]; exact h_J₁_ne_zero
+  · rw [Ne.def, Associates.mk_eq_zero]; exact h_a_ne_zero
+
+/-- For nonzero `I, I'`, `val_v(I*I') = val_v(I) + val_v(I')`. -/
+theorem count_mul {I I' : FractionalIdeal (nonZeroDivisors R) K} (hI : I ≠ 0) (hI' : I' ≠ 0) :
```
Comment (erdOne) [inline Mathlib/RingTheory/DedekindDomain/Factorization.lean:326]: I think this should be generalized to `Finset.prod`.

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 9]
```diff
@@ -177,3 +223,289 @@ theorem finprod_heightOneSpectrum_factorization_coe (I : Ideal R) (hI : I ≠ 0)
...
+  rw [← mul_finprod_cond_ne v h_supp, count_mul, count_zpow_self, count_finprod_coprime, add_zero]
+  · exact zpow_ne_zero _ (coeIdeal_ne_zero.mpr v.ne_bot)
+  · rw [finprod_cond_ne _ _ h_supp, Finset.prod_ne_zero_iff]
+    intros w _
+    exact zpow_ne_zero _ (coeIdeal_ne_zero.mpr w.ne_bot)
+
+variable {K}
+
+/-- If `I ≠ 0`, then `val_v(I) = 0` for all but finitely many maximal ideals of `R`. -/
+theorem finite_factors {I : FractionalIdeal (nonZeroDivisors R) K} (hI : I ≠ 0) {a : R}
```
Comment (erdOne) [inline Mathlib/RingTheory/DedekindDomain/Factorization.lean:487]: Should this be restated in terms of `count`?

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean (hunk 5 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean:406]: I renamed this to `count_neg_zpow` and added `count_inv` for the special case.

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean (hunk 8 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean:326]: Do you need this? In my applications I always use finprods over all the maximal ideals, so I only needed the finprod version.

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean (hunk 7 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean:428]: Added as `count_maximal`.

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean (hunk 8 above)
Comment (erdOne) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean]: Say you have a factorization $f(x) = \prod g_i(x)$ of polynomials, then you would get $(f(a)) = \prod (g_i(a))$ where the ideals on the LHS aren't maximal ideals, but you would likely want to show $\text{val}_v((f(a))) = \sum \text{val}_v((g_i(a)))$.   I think these would come up here and there?

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean (hunk 2 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean]: I have added the version you propose, but I need to keep mine - I need a version that I can apply to `k : K`, without needing to express it as a fraction.

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean (hunk 1 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean]: I wrote `finprod_heightOneSpectrum_factorization'` for the version in terms of count.

Comment (erdOne) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean]: I think the `count` version should be the unprimed one?

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 10]
```diff
@@ -165,15 +209,356 @@ theorem finprod_heightOneSpectrum_factorization (I : Ideal R) (hI : I ≠ 0) :
...
+theorem count_prod {S : Finset (FractionalIdeal R⁰ K)} (hS : ∀ I ∈ S, I ≠ 0) :
+    count K v (∏ I in S, I) = ∑ I in S, (count K v I) := by
+  induction' S using Finset.induction with i S hi hrec
+  ·  rw [Finset.prod_empty, Finset.sum_empty, count_one]
+  · have hS' : ∀ (I : FractionalIdeal R⁰ K), I ∈ S → I ≠ 0 := fun I hI =>
+      hS I (Finset.mem_insert_of_mem hI)
+    have hS0 : ∏ x in S, x ≠ 0 := Finset.prod_ne_zero_iff.mpr hS'
+    have hi0 : i ≠ 0 := hS i (Finset.mem_insert_self i S)
+    rw [Finset.prod_insert hi, Finset.sum_insert hi, count_mul K v hi0 hS0, hrec hS']
+
```
Comment (erdOne) [inline Mathlib/RingTheory/DedekindDomain/Factorization.lean:399]: I think something like this would be useful?
```lean
theorem count_coe (J : Ideal R) (hJ : J ≠ 0) :
    count K v J = (Associates.mk v.asIdeal).count (Associates.mk J).factors := by
  classical
  rw [count_well_defined K (J := J) (a := 1), Ideal.span_singleton_one, sub_eq_self,
    Nat.cast_eq_zero, ← Ideal.one_eq_top, Associates.mk_one, Associates.factors_one,
    Associates.count_zero v.associates_irreducible]
  · simpa only [ne_eq, coeIdeal_eq_zero]
  · simp

theorem count_coe_nonneg (J : Ideal R) : 0 ≤ count K v J := by
  by_cases hJ : J = 0
  · simp [hJ, count_zero]
  · simp [count_coe K v J hJ]

theorem count_mono {I J} (hI' : I ≠ 0) (h : I ≤ J) : count K v J ≤ count K v I := by
  by_cases hJ : J = 0
  · exact (hI' (FractionalIdeal.le_zero_iff.mp (h.trans hJ.le))).elim
  have := FractionalIdeal.mul_le_mul_left h J⁻¹
  rw [inv_mul_cancel hJ, FractionalIdeal.le_one_iff_exists_coeIdeal] at this
  obtain ⟨J', hJ'⟩ := this
  rw [← mul_inv_cancel_left₀ hJ I, ← hJ', count_mul K v hJ, le_add_iff_nonneg_right]
  · exact count_coe_nonneg K v J'
  · exact hJ' ▸ mul_ne_zero (inv_ne_zero hJ) hI'
```

**Review by erdOne — COMMENTED** [review]
Also should there be some count lemmas marked as simp?

**Comment by digama0** [comment]
Note: I have pushed an update to the lean toolchain because this PR was on a [buggy version](https://leanprover.zulipchat.com/#narrow/stream/113488-general/topic/Potential.20data.20loss.20from.20.60lake.20clean.60.20with.204.2E2.2E0-rc2.2F3/near/397875701) of the toolchain. **WARNING**: checking out old commits of this PR using v4.2.0-rc2 or v4.2.0-rc3 can cause `lake clean` to delete your mathlib folder! If you need to do so, make sure to delete `lakefile.olean` manually before running any `lake` commands.

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 11]
```diff
@@ -165,15 +209,356 @@ theorem finprod_heightOneSpectrum_factorization (I : Ideal R) (hI : I ≠ 0) :
...
+      exact hv (Eq.refl 1)
+    exact Finite.subset h_exps h_subset
+  rw [← mul_finprod_cond_ne v h_supp, count_mul, count_zpow_self, count_finprod_coprime, add_zero]
+  · exact zpow_ne_zero _ (coeIdeal_ne_zero.mpr v.ne_bot)
+  · rw [finprod_cond_ne _ _ h_supp, Finset.prod_ne_zero_iff]
+    intros w _
+    exact zpow_ne_zero _ (coeIdeal_ne_zero.mpr w.ne_bot)
+
+/-- If `I` is a nonzero fractional ideal, then `I` is equal to the product `∏_v v^(count K v I)`. -/
+theorem finprod_heightOneSpectrum_factorization' {I : FractionalIdeal R⁰ K} (hI : I ≠ 0):
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean:523]: I'd rather not do that, since the currently unprimed version is used frequently in my work.

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 12]
```diff
@@ -3,22 +3,45 @@ Copyright (c) 2022 María Inés de Frutos-Fernández. All rights reserved.
...
+  set `val_v(I) = 0`.
+
 ## Main results
 - `Ideal.finite_factors` : Only finitely many maximal ideals of `R` divide a given nonzero ideal.
 - `Ideal.finprod_heightOneSpectrum_factorization` : The ideal `I` equals the finprod
   `∏_v v^(val_v(I))`, where `val_v(I)` denotes the multiplicity of `v` in the factorization of `I`
   and `v` runs over the maximal ideals of `R`.
+- `FractionalIdeal.finprod_heightOneSpectrum_factorization` : If `I` is a nonzero fractional ideal,
+  `a ∈ R`, and `J` is an ideal of `R` such that `I = a⁻¹J`, then `I` is equal to the product
+  `∏_v v^(val_v(J) - val_v(a))`.
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean:33]: Added as documentation for `FractionalIdeal.finprod_heightOneSpectrum_factorization'`.

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 13]
```diff
@@ -165,15 +209,356 @@ theorem finprod_heightOneSpectrum_factorization (I : Ideal R) (hI : I ≠ 0) :
...
+      by_contra h
+      rw [mem_setOf_eq, not_not] at h
+      rw [mem_setOf_eq, h, zpow_zero] at hv
+      exact hv (Eq.refl 1)
+    exact Finite.subset h_exps h_subset
+  rw [← mul_finprod_cond_ne v h_supp, count_mul, count_zpow_self, count_finprod_coprime, add_zero]
+  · exact zpow_ne_zero _ (coeIdeal_ne_zero.mpr v.ne_bot)
+  · rw [finprod_cond_ne _ _ h_supp, Finset.prod_ne_zero_iff]
+    intros w _
+    exact zpow_ne_zero _ (coeIdeal_ne_zero.mpr w.ne_bot)
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean:520]: The `rw [count_prod]` in the first line of the golfed proof does not currently work.

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean (hunk 10 above)
Comment (mariainesdff) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean:400]: I added these, thanks!

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 14]
```diff
@@ -27,12 +50,33 @@ noncomputable section
...
+  exact hI haJ
+
+/-- If `I` is a nonzero fractional ideal, `a ∈ R`, and `J` is an ideal of `R` such that
+`I = a⁻¹J`, then `a` is nonzero. -/
+theorem constant_factor_ne_zero {I : FractionalIdeal R⁰ K} (hI : I ≠ 0) {a : R} {J : Ideal R}
+    (haJ : I = spanSingleton R⁰ ((algebraMap R K) a)⁻¹ * ↑J) :
+    (Ideal.span {a} : Ideal R) ≠ 0 := fun h ↦ by
+  rw [Ideal.zero_eq_bot, Ideal.span_singleton_eq_bot] at h
+  rw [h, RingHom.map_zero, inv_zero, spanSingleton_zero, MulZeroClass.zero_mul] at haJ
+  exact hI haJ
```
[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean:73]: I'll try to move these to `FractionalIdeal.Basic.lean`.

Sorry, I don't see what style fix you want me to make.

[the remark this answers is not in the document]
Comment (mariainesdff) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean:73]: I moved them to `FractionalIdeal.Operations.lean`.

File: Mathlib/RingTheory/DedekindDomain/Factorization.lean [hunk 15]
```diff
@@ -165,15 +190,374 @@ theorem finprod_heightOneSpectrum_factorization (I : Ideal R) (hI : I ≠ 0) :
...
+      (v.asIdeal : FractionalIdeal R⁰ K) ^ exps v) = exps v := by
+  rw [finprod_eq_finset_prod_of_mulSupport_subset (s := h_exps.toFinset), count_prod]
+  · simp only [count_zpow, count_maximal, mul_ite, mul_one, mul_zero, Finset.sum_ite_eq',
+    Finite.mem_toFinset, mem_compl_iff, mem_setOf_eq, eq_comm (a := exps v), ite_not,
+    ite_eq_right_iff, imp_self]
+  · exact fun v hv ↦ zpow_ne_zero _ (coeIdeal_ne_zero.mpr v.ne_bot)
+  · rw [Finite.coe_toFinset]
+    intro v hv h
+    rw [mem_mulSupport, h, zpow_zero] at hv
+    exact hv (Eq.refl 1)
```
Comment (erdOne) [inline Mathlib/RingTheory/DedekindDomain/Factorization.lean:492]:
```suggestion

theorem count_finsupp_prod (exps : HeightOneSpectrum R →₀ ℤ) :
    count K v (exps.prod (HeightOneSpectrum.asIdeal · ^ ·)) = exps v := by
  rw [Finsupp.prod, count_prod]
  · simp only [count_zpow, count_maximal, mul_ite, mul_one, mul_zero, Finset.sum_ite_eq',
      exps.mem_support_iff, ne_eq, ite_not, ite_eq_right_iff, @eq_comm ℤ 0, imp_self]
  · exact fun v hv ↦ zpow_ne_zero _ (coeIdeal_ne_zero.mpr v.ne_bot)

/-- If `exps` is finitely supported, then `val_v(∏_w w^{exps w}) = exps v`. -/
theorem count_finprod (exps : HeightOneSpectrum R → ℤ)
    (h_exps : ∀ᶠ v in Filter.cofinite, exps v = 0) :
    count K v (∏ᶠ v : HeightOneSpectrum R,
      (v.asIdeal : FractionalIdeal R⁰ K) ^ exps v) = exps v := by
  convert count_finsupp_prod K v (Finsupp.mk h_exps.toFinset exps (fun _ ↦ h_exps.mem_toFinset))
  rw [finprod_eq_finset_prod_of_mulSupport_subset (s := h_exps.toFinset), Finsupp.prod]
  · rfl
  · rw [Finite.coe_toFinset]
    intro v hv h
    rw [mem_mulSupport, h, zpow_zero] at hv
    exact hv (Eq.refl 1)

```
I was able to split this proof into two, which I think will be useful.

Comment (mariainesdff) [reply Mathlib/RingTheory/DedekindDomain/Factorization.lean]: Thanks!

**Review by Vierkantor — APPROVED** [review]
Sorry for the wait! It's been a while, so I forgot a bit of the context here. On the other hand, my goal is to finish a review all at once, or to say otherwise. Since all my comments were addressed, and the new changes look good, I'm happy to merge this.

bors d=@erdOne

**Comment by erdOne** [comment]
bors merge

**Comment by Vierkantor** [comment]
I went ahead and merged master to fix the build errors.

bors d+
